Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
___: Ventral hernia repair with mesh

 
History of Present Illness:
___ man otherwise relatively healthy, comes in today 
with a complaint of8 day pain along the right side of his 
incision from open cholecystectomy done in ___ ___ years 
ago. He reports that his hernia had become more painful 8 days 
ago that improved with some with ibuprofen, but is still 
persistent. It is sharp in nature and is along the right side of 
his incision. He does not have GI symptoms such as nausea, 
vomiting, obstipation or diarrhea. 
 
Past Medical History:
MH: hyperlipidemia, shoulder pain  
PSH: s/p open cholecystectomy ___ years ago in ___, shoulder 
surgery  

 
Social History:
___
Family History:
non contributory 
 
Physical Exam:
Admission Physical Exam:
Temp: 98.2 HR: 54 BP: 157/65 Resp: 18 O(2)Sat: 100 Normal
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic, Extraocular muscles intact
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Surgical incision open to air and c/d/i
GU/Flank: No costovertebral angle tenderness
Extr/Back: + pulses
Skin: No rash, Warm and dry
Neuro: Speech fluent, GCS 15
Psych: Normal mood, Normal mentation
___: No petechiae
 
Pertinent Results:
___ CT Abdomen/Pelvis:
1. A few mildly prominent small bowel loops in the upper abdomen 
but no 
findings to suggest obstruction.  No other finding to explain 
patient's 
symptoms. 
2. Small Richter's type umbilical hernia containing fat and a 
wall of small bowel without obstruction 

RECENT LABS:

___ 06:55AM BLOOD WBC-7.1 RBC-4.32* Hgb-12.9* Hct-39.1* 
MCV-91 MCH-29.9 MCHC-33.0 RDW-12.0 RDWSD-39.7 Plt ___
___ 06:55AM BLOOD Glucose-101* UreaN-11 Creat-1.0 Na-141 
K-4.0 Cl-104 HCO3-28 AnGap-13
___ 08:30PM BLOOD ALT-18 AST-24 AlkPhos-83 TotBili-0.4
___ 06:55AM BLOOD Calcium-8.4 Phos-3.4 Mg-2.1
 
Brief Hospital Course:
The patient with history of open cholecystectomy was admitted to 
the ACS Service with symptomatic ventral hernia. On ___, the 
patient underwent ventral hernia repair with mesh, which went 
well without complication (please see the Operative Note for 
details). After a brief, uneventful stay in the PACU, patient 
was discharged home in stable condition. Patient was started on 
Flomax for urinary retention, he was able to void without 
difficulties prior to discharge.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 

 
Medications on Admission:
cholestyramine 4g TID
cyclobenzaprine ___ QHS:prn
Flonase 50mcg 1 spray daily to each nostril
Metronidazole 0.75% topical cream BID to nose
Multivitamin daily
Naproxen 500mg daily
Viagra 100mg ___ tablet prn
Zyrtec 10mg daiy

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  metroNIDAZOLE 0.75 % topical DAILY  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Senna 17.2 mg PO HS  
6.  Tamsulosin 0.4 mg PO DAILY 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth once a day Disp #*7 
Capsule Refills:*0 
7.  Cetirizine 10 mg PO DAILY  
8.  Cholestyramine 4 gm PO TID  
9.  Cyclobenzaprine ___ mg PO HS:PRN muscle aches  
10.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
11.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ventral hernia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery Service on ___ 
with abdominal pain. You had a CT scan that showed herniation of 
your small bowel in the right upper abdomen. Attempt at reducing 
the hernia at bedside was made but you continued to have 
abdominal pain. The decision was made to preform surgical 
repair. You are now recovery well, tolerating a regular diet, 
and pain is better controlled. 

You are now ready to be discharged to home with the following 
discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please wear abdominal binder all the time until your follow up 
with your surgeon.
You can shower without binder. 
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___